### PR TITLE
[Merged by Bors] - feat(AdicTopology): add lemmas about adic topology

### PR DESCRIPTION
**Pull request by BryceT233**
This PR adds APIs to transport topological and uniform properties of adic topologies across ring equivalences, By upgrading an ideal-preserving ring equivalence to a `UniformEquiv`, we provide natural congruence lemmas for adic completeness, precompleteness, and Hausdorffness, which serve as necessary topological preliminaries for the ongoing formalization of the Cohen Structure Theorem.

Co-authored-by: @Thmoas-Guan

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean [hunk 1]
```diff
@@ -111,6 +111,15 @@ theorem hasBasis_nhds_adic (I : Ideal R) (x : R) :
...
   rwa [map_add_left_nhds_zero x] at this
 
+theorem isLinearTopology (I : Ideal R) : @IsLinearTopology R R _ _ _ I.adicTopology :=
+  @IsLinearTopology.mk R R _ _ _ I.adicTopology (by
+    rw [Filter.hasBasis_iff]
+    refine fun U ↦ ⟨fun hU ↦ ?_, fun ⟨N, hN_mem, hN_subset⟩ ↦
+      Filter.mem_of_superset hN_mem hN_subset⟩
+    have h_basis := Ideal.hasBasis_nhds_zero_adic I
+    rcases h_basis.mem_iff.mp hU with ⟨n, _, hn_subset⟩
+    exact ⟨I ^ n, h_basis.mem_of_mem trivial, hn_subset⟩)
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean]:
```suggestion
  letI := I.adicTopology
  IsLinearTopology.mk_of_hasBasis _ I.hasBasis_nhds_zero_adic
```

File: Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean [hunk 2]
```diff
@@ -245,6 +254,30 @@ instance (priority := 100) : UniformSpace R :=
...
+variable {R} in
+theorem continuous_of_map_le {S : Type*} [CommRing S] [WithIdeal S] {f : R →+* S}
+    (hf : i.map f ≤ i) : Continuous f := continuous_of_continuousAt_zero f (by
+  have hR := Ideal.hasBasis_nhds_zero_adic (i : Ideal R)
+  have hS := Ideal.hasBasis_nhds_zero_adic (i : Ideal S)
+  rw [ContinuousAt, map_zero, hR.tendsto_iff hS]
+  refine fun n _ ↦ ⟨n, trivial, fun x hx => ?_⟩
+  have : (i ^ n).map f ≤ i ^ n := by
+    simpa [Ideal.map_pow] using Ideal.pow_right_mono hf n
+  exact this (Ideal.mem_map_of_mem f hx))
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean]:
```suggestion
  refine fun n _ ↦ ⟨n, trivial, Ideal.map_le_iff_le_comap.mp ?_⟩
  simpa [Ideal.map_pow] using Ideal.pow_right_mono hf n)
```

File: Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean [hunk 3]
```diff
@@ -245,6 +254,30 @@ instance (priority := 100) : UniformSpace R :=
...
   isUniformAddGroup_of_addCommGroup
 
+instance (priority := 100) : IsLinearTopology R R := Ideal.isLinearTopology i
+
+variable {R} in
+theorem continuous_of_map_le {S : Type*} [CommRing S] [WithIdeal S] {f : R →+* S}
+    (hf : i.map f ≤ i) : Continuous f := continuous_of_continuousAt_zero f (by
+  have hR := Ideal.hasBasis_nhds_zero_adic (i : Ideal R)
+  have hS := Ideal.hasBasis_nhds_zero_adic (i : Ideal S)
+  rw [ContinuousAt, map_zero, hR.tendsto_iff hS]
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean]:
```suggestion
  rw [ContinuousAt, map_zero, i.hasBasis_nhds_zero_adic.tendsto_iff i.hasBasis_nhds_zero_adic]
```

File: Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean [hunk 4]
```diff
@@ -245,6 +254,30 @@ instance (priority := 100) : UniformSpace R :=
...
+variable {R} in
+lemma isTopologicallyNilpotent_of_mem {a : R} (ha : a ∈ i) :
+    IsTopologicallyNilpotent a := by
+  have h_basis := Ideal.hasBasis_nhds_zero_adic (i : Ideal R)
+  rw [IsTopologicallyNilpotent, h_basis.tendsto_right_iff]
+  intro m _; rw [Filter.eventually_atTop]
+  refine ⟨m, fun n hn ↦ ?_⟩
+  obtain ⟨k, rfl⟩ := Nat.exists_eq_add_of_le hn
+  rw [pow_add, SetLike.mem_coe]
+  exact Ideal.mul_mem_right _ _ (Ideal.pow_mem_pow ha m)
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean]:
```suggestion
  suffices ∀ m : ℕ, ∃ n₀, ∀ n, n₀ ≤ n → a ^ n ∈ i ^ m by
    simpa [IsTopologicallyNilpotent, i.hasBasis_nhds_zero_adic.tendsto_right_iff]
  exact fun m ↦ ⟨m, fun n hn ↦ Ideal.pow_le_pow_right hn (Ideal.pow_mem_pow ha _)⟩
```

File: Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean [hunk 5]
```diff
@@ -9,7 +9,7 @@ public import Mathlib.RingTheory.Ideal.Maps
 public import Mathlib.Topology.Algebra.Nonarchimedean.Bases
 import Mathlib.Topology.Algebra.UniformRing  -- shake: keep (used in `example` only)
 public import Mathlib.Topology.Algebra.IsUniformGroup.Defs
-
+public import Mathlib.Topology.Algebra.TopologicallyNilpotent
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean:11]:
```suggestion
public import Mathlib.RingTheory.Ideal.Maps
public import Mathlib.Topology.Algebra.IsUniformGroup.Defs
public import Mathlib.Topology.Algebra.Nonarchimedean.Bases
public import Mathlib.Topology.Algebra.TopologicallyNilpotent

import Mathlib.Topology.Algebra.UniformRing  -- shake: keep (used in `example` only)
```

**Review by j-loreaux — COMMENTED** [review]
This seems reasonable to me, but it's outside m area of expertise, so I won't merge. @erdOne I'm delegating this to you since you already provided a review.

bors d=erdOne
